US07276508B2
6c, 5-Chloro-3-{1-[4-(3,4-dihydro-2H-quinolin-1-yl)-4-oxobutan-1-yl]piperidin-4-yl}-1H-indole, hydrochloride
from 5-chloro-3-(piperidin-4-yl)-1H-indole and 4-chloro-1-(3,4-dihydro-2H-quinolin-1-yl)butan-1-one. Mp 158-162° C. 1H NMR (DMSO-d6): 1.85-1.95 (m, 2H); 1.95-2.20 (m, 6H); 2.60-2.75 (m, 4H); 2.95-3.15 (m, 5H); 3.55 (d, 2H); 3.70 (t, 2H); 7.05-7.25 (m, 6H); 7.40 (d, 1H); 7.75 (s, 1H); 10.45 (broad s, 1H); 11.15 (s, 1H). MS m/z: 436 (MH+), 303.

reactant | 5-chloro-3-(piperidin-4-yl)-1H-indole | ClC=1C=C2C(=CNC2=CC1)C1CCNCC1 | C13H15ClN2
reactant | 4-chloro-1-(3,4-dihydro-2H-quinolin-1-yl)butan-1-one | ClCCCC(=O)N1CCCC2=CC=CC=C12 | C13H16ClNO
product | 5-Chloro-3-{1-[4-(3,4-dihydro-2H-quinolin-1-yl)-4-oxobutan-1-yl]piperidin-4-yl}-1H-indole, hydrochloride | Cl.ClC=1C=C2C(=CNC2=CC1)C1CCN(CC1)CCCC(=O)N1CCCC2=CC=CC=C12 | InChI=1S/C26H30ClN3O.ClH/c27-21-9-10-24-22(17-21)23(18-28-24)19-11-15-29(16-12-19)13-4-8-26(31)30-14-3-6-20-5-1-2-7-25(20)30;/h1-2,5,7,9-10,17-19,28H,3-4,6,8,11-16H2;1H
